US06824709B2
A dichloromethane (1 L) solution of fluorene (150 g) was cooled down to 0° C., and anhydrous aluminum chloride (126 g) was added thereto little by little. Next, a dichloromethane (400 mL) solution of acetyl chloride (74 g) was dropwise added and stirred for one hour while maintaining 0° C. The reaction mixture was poured into 6M-hydrochloric acid (1 L) containing ice, and the solid matters deposited were obtained by filtering under reduced pressure. They were dried and then recrystallized from toluene to obtain 2-acetylfluorene (165 g) of colorless needle crystal. The melting point of this compound was 129° C.

reactant | fluorene | 150 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | aluminum chloride | 126 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 74 g | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | 1 L | Cl | ClH
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | 2-acetylfluorene | 165 g | C(C)(=O)C1=CC=2CC3=CC=CC=C3C2C=C1 | C15H12O
